555 Astable Mode
.include 555.cir

Vcc vcc 0 DC 5.0

Ra  vcc dis 1.00e+04
Rb  dis thr 1.00e+04
C1  thr 0   1.00e-05
Cc  con 0   10n

.ic v(thr)=0

*   gnd trig out rst  con  thr  dis  vcc
X1  0   thr  out vcc  con  thr  dis  vcc  555

.OPTIONS reltol=1e-3 abstol=1e-6 vntol=1e-4 itl4=100

.SAVE v(out) v(thr)

.TRAN 4.166667e-04 2.083333e+00 1.458333e+00
.END
